US04358393
Preparation of 5-cyano-2-[4-hydroxy-phenyl]pyrimidine.
50 ml abs. triethylamine, 50 ml abs. pyridine, 17.3 g (0.1 mol) 4-hydroxybenzamidine-hydrochloride and 11 g (0.1 mol) α-cyano-β-dimethylamino-acroleine are heated upon stirring for 6 hours to 80° C. Dark brown colored reaction mixture is poured on ice/concentrated H2SO4 (500 g/50 ml), the precipitate is removed by suction, washed thoroughly with water and recrystallized from methanol/activated carbon. The yield is 12.8 g (65% of the theoretical value). m.p.: 160-262 (sublimed).

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4-hydroxybenzamidine-hydrochloride | 0.1 mol, 17.3 g | Cl.OC1=CC=C(C(=N)N)C=C1
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-cyano-2-[4-hydroxy-phenyl]pyrimidine | C(#N)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C11H7N3O
